US04954518
340 mg of acetic anhydride and 310 mg of formic acid were mixed. The mixture was stirred for 1.5 hours at 40°-45° C. Thereto was added 10 ml of methylene chloride. There was further added 400 mg of 7-methylsulfonylamino-3-methylamino-6-phenoxy-4H-1-benzopyran-4-one. The resulting mixture was stirred for 1 hour at 25°-30° C. 10 ml of diisopropyl ether was added thereto. The resulting crystal was collected by filtration and then recrystallized from acetonitrile to obtain 330 mg (yield: 76.7%) of 7-methylsulfonylamino-3-(N-formyl-N-methylamino)-6-phenoxy-4H-1-benzopyran-4-one.

reactant | acetic anhydride | 340 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 310 mg | C(=O)O | CH2O2
reactant | 7-methylsulfonylamino-3-methylamino-6-phenoxy-4H-1-benzopyran-4-one | 400 mg | CS(=O)(=O)NC1=CC2=C(C(C(=CO2)NC)=O)C=C1OC1=CC=CC=C1 | C17H16N2O5S
reactant | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-methylsulfonylamino-3-(N-formyl-N-methylamino)-6-phenoxy-4H-1-benzopyran-4-one | 330 mg, yield: 76.7% | CS(=O)(=O)NC1=CC2=C(C(C(=CO2)N(C)C=O)=O)C=C1OC1=CC=CC=C1 | C18H16N2O6S
